US05152824
A mixture comprising 1 g (2.83 mmol) of phenyl N-[(N-(N-methyl-N-methoxyaminosulfonyl)-N-methylamino)sulfonyl]-carbamate, 0.45 g (2.81 mmol) of 3-methyl-5-phenyl-2-pyrazoline and 30 ml of dry benzene was heated at 80° C. for 5 minutes. The mixture was left to cool, and then the solvent was distilled off under reduced pressure. The residue was purified by reverse phase column chromatography (CH3CN: H2O=7:3) to obtain 0.5 g of the desired 1-[(N-(N-methyl-N-methoxyaminosulfonyl)-N-methyl-amino)sulfonylcarbamoyl]-3-methyl-5-phenyl-2-pyrazoline as glassy substance.

reactant | phenyl N-[(N-(N-methyl-N-methoxyaminosulfonyl)-N-methylamino)sulfonyl]-carbamate | 2.83 mmol, 1 g | CN(S(=O)(=O)N(C)S(=O)(=O)NC(OC1=CC=CC=C1)=O)OC | C10H15N3O7S2
reactant | 3-methyl-5-phenyl-2-pyrazoline | 2.81 mmol, 0.45 g | CC1=NNC(C1)C1=CC=CC=C1 | C10H12N2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-[(N-(N-methyl-N-methoxyaminosulfonyl)-N-methyl-amino)sulfonylcarbamoyl]-3-methyl-5-phenyl-2-pyrazoline | 0.5 g | CN(S(=O)(=O)N(C)S(=O)(=O)NC(=O)N1N=C(CC1C1=CC=CC=C1)C)OC | C14H21N5O6S2
